*Quad 2-in OR - type:digital pkg:DIP14 (A:1,2,3)(B:4,5,6)(C:9,10,8)(D:12,13,11)
.SUBCKT X2or PWR GND IN1 IN2 OUT
A1 [PWR GND IN1 IN2] [DIPWR DIGND DIN1 DIN2] adc_mod
A2 [DIPWR DIGND DIN1 DIN2][DOPWR DOIN1 DOIN2 DOUT] A74LS32
A3 [DOPWR DOIN1 DOIN2 DOUT] [PWR IN1 IN2 OUT] dac_mod
.model dac_mod xdac
.model adc_mod xadc
.model A74LS32 xsimcode(file=C:\CM50_32\MODEL\LS.txt func=ls32 )
.ENDS X2or
