*Generic 3-state Buffer MCE Nodes: In,OE,Out
*MCE mixed-mode 3-state buffer
.SUBCKT X3SBUFF 6 7 8
R1 4 3 1
C1 0 3 .004u IC=0V
V1 5 0 DC 5V
BNLVs1 4 0 V=v(6)
SVcSW1 3 8 7 0 STTL
R2 8 5 10Meg
R3 0 8 10Meg
R4 7 0 10Meg
*TTL TTL switch (vih=2.0v, vil=0.8v)
.MODEL STTL SW(VT=2 VH=1.2 ROFF=500E+6 )
.ENDS X3SBUFF

